### PR TITLE
Simplify p

### PR DESCRIPTION
**Pull request by Casteran**

### CODE REVIEW

**Comment by Casteran** [comment]
@start974 I couldn't request a review from Jérémy on github. Of course, his opinion is welcome !

File: theories/ordinals/Epsilon0/T1.v [hunk 1]
```diff
@@ -3731,14 +3731,14 @@ Fixpoint p_size (exp : ppT1) : nat :=
 
 Definition pp (e: T1) : ppT1  := let t := pp0 e in reassoc t (p_size t).
 
-Compute (pp (T1.omega ^ T1.omega * 2 + T1.omega ^ 5 + T1.omega +  1))%t1 .
+Compute (pp (omega ^ omega * 2 + omega ^ 5 + omega +  1))%t1 .
```
Comment (start974) [inline theories/ordinals/Epsilon0/T1.v:3734]:
```suggestion
Compute (pp (omega ^ omega * 2 + omega ^ 5 + omega + 1))%t1 .
```

File: theories/ordinals/Epsilon0/T1.v [hunk 2]
```diff
@@ -3731,14 +3731,14 @@ Fixpoint p_size (exp : ppT1) : nat :=
...
 
-Compute (pp (T1.omega ^(T1.omega ^ T1.omega * 2 + T1.omega ^ 5 +T1.omega +  1)))%t1 .
+Compute (pp (omega ^(omega ^ omega * 2 + omega ^ 5 +omega +  1)))%t1 .
```
Comment (start974) [inline theories/ordinals/Epsilon0/T1.v:3736]:
```suggestion
Compute (pp (omega ^ (omega ^ omega * 2 + omega ^ 5 + omega + 1)))%t1 .
```

File: theories/ordinals/Epsilon0/T1.v [hunk 3]
```diff
@@ -3731,14 +3731,14 @@ Fixpoint p_size (exp : ppT1) : nat :=
...
 
-Compute pp T1.omega.
+Compute pp omega.
 
 Eval simpl in  fun n:nat =>
-                 (pp (T1.omega ^(T1.omega ^ T1.omega * n + T1.omega ^ n +T1.omega +  1)))%t1 .
+                 (pp (omega ^(omega ^ omega * n + omega ^ n +omega   +  1)))%t1 .
```
Comment (start974) [inline theories/ordinals/Epsilon0/T1.v:3741]:
```suggestion
                 (pp (omega ^ (omega ^ omega * n + omega ^ n + omega + 1)))%t1 .
```

File: theories/ordinals/Epsilon0/T1.v [hunk 4]
```diff
@@ -4069,98 +4066,88 @@ Section Proof_of_dist.
...
+       compare destruct a1_1 b1_1 as Hcomp_a11_b11.
+       + eenough (compare (ocons a1_1 (S (n3 + n2)) _)
+                          (ocons a1_1 n3 _) = Gt) as -> by reflexivity.
+         apply gt_iff, coeff_lt; lia.
+       + eenough (compare (ocons b1_1 _ _) (ocons a1_1 _ _) = Gt) as -> by reflexivity.
+         now apply gt_iff, head_lt.
+       + eenough (compare (ocons a1_1 n3 (a1_2 + _)) 
+                          (ocons a1_1 n3 a1_2) = Gt) as -> by reflexivity.
+         apply gt_iff, tail_lt, lt_plus_l.
+    -  rewrite_ind Hind b2;    simpl.
```
Comment (start974) [inline theories/ordinals/Epsilon0/T1.v:4089]:
```suggestion
    -  rewrite_ind Hind b2; simpl. 
```

File: theories/ordinals/Epsilon0/T1.v [hunk 5]
```diff
@@ -4186,7 +4173,6 @@ Compute nf_b alpha_0.
 
 
 Example alpha_0_eq : alpha_0 = phi0 omega  +
-                               phi0 (fin 3)  * fin 5 +
-                               fin 2.
+                               phi0 3  *  5 + 2.
```
Comment (start974) [inline theories/ordinals/Epsilon0/T1.v:4176]:
```suggestion
                               phi0 3 * 5 + 2.
```

File: theories/ordinals/Epsilon0/T1.v [hunk 6]
```diff
@@ -4069,98 +4066,88 @@ Section Proof_of_dist.
...
+       + eenough (compare (ocons a1_1 (S (n3 + n2)) _)
+                          (ocons a1_1 (S (n3 + n4)) _) = Gt) as -> by reflexivity.
+         {
+           apply gt_iff.
+           apply lt_inv_nb in Hcomp_b1_c1 as [Hlt | (Heq, Hlt)].
+           - apply coeff_lt; lia.
+           - subst; now apply tail_lt.
+         }
+       + exfalso.
+         apply lt_inv_le, le_lt_eq in Hcomp_b1_c1 as [Hlt | Heq].
```
Comment (start974) [inline theories/ordinals/Epsilon0/T1.v:4101]:
```suggestion
         now apply lt_inv_head, le_not_gt in Hcomp_b1_c1.
```

File: theories/ordinals/Epsilon0/T1.v [hunk 7]
```diff
@@ -4069,98 +4066,88 @@ Section Proof_of_dist.
...
+  Qed.
+
+
+  About L0.
+
+  Theorem mult_plus_distr_l (a b c: T1) :
+    nf a -> nf b -> nf c ->
+    a * (b + c) = a * b + a * c.
+  Proof. About L0.
+         intros Ha Hb Hc; apply (L0 Ha Hb Hc); auto.
```
Comment (Zimmi48) [inline theories/ordinals/Epsilon0/T1.v:4139]:
```suggestion
  Proof.
    intros Ha Hb Hc; apply (L0 Ha Hb Hc); auto.
```
